US04116951
The same compound was also prepared by a different route. Thus, H-Ser(Bzl)-OH (18.6 g, 95.4 mmol) was dissolved in 45 ml Triton B, evaporated to dryness, and the residue re-evaporated twice with DMF (100 ml each). The residue was then stirred with Ac-OSu (16.9 g, 95.4 mmol) in 150 ml DMF for 20 hours. N-Methylmorpholin was added from time to time in order to maintain the reaction slightly basic. Removal of the solvent and extraction of the product into EtOAc followed by washing with small volumes of 10% HOAc, H2O (the product is water soluble, use a small volume of H2O), dried over Na2SO4, evaporation to dryness again gave a clear oil (14.5 g, Ac-Ser(Bzl)-OH). The compound failed to crystallize. It was thus dissolved in a mixture of MeOH and H2O (300 ml:30 ml), titrated to pH 7.0 with 20% Cs2CO3 and evaporated to a solid mass. The salt was re-evaporated twice more with DMF and stirred with benzyl bromide (15.4 g, 91 mmol) in 250 ml DMF for 18 hours. On evaporation of the solvent, the residue was taken up in H2O (600 ml) and the oily product formed was extracted into EtOAc. It was washed with H2O, dried over Na2SO4 and evaporated to a syrup which on seeding crystallized immediately. It was recrystallized from EtOAc and petroleum ether to yield, 10.42 g (32.2% overall); mp 89°-91°.

reactant | H-Ser(Bzl)-OH | 95.4 mmol, 18.6 g | N[C@@H](COCC1=CC=CC=C1)C(=O)O | C10H13NO3
reactant | Ac-OSu | 95.4 mmol, 16.9 g | C(=O)(C)ON1C(=O)CCC1=O | C6H7NO4
reactant | N-Methylmorpholin | CN1CCOCC1 | C5H11NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Ac-Ser(Bzl)-OH | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)C | C12H15NO4
